Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Altered mental status, Back pain, fever
 
Major Surgical or Invasive Procedure:
___ Aspiration of back infection

 
History of Present Illness:
___ w hx MSSA bacteremia ___ T4-5 epidural abscess and discitis
in ___ s/p multiple courses of antibiotic therapy, recent
NSTEMI, HCV, CKD stage 3, remote IVDU w/ mitral stenosis, mild
cognitive impairment, who presents with confusion and fluctuant
mass on the R thoracic spine. Most of history was provided by
husband at bedside. Husband states that she was confused,
feverish last night, and vomited after ___ clinic morning
of ___. He noticed swelling over R thoracic spine at site of
previous abscess, found temp of 103 at home this am. He reports
he saw pt drinking juice out of a bowl instead of a cup last
night and says pt has been increasingly confused. Pt is
occasionally confused at baseline but this is noticeably
different. She does not have headache or neck stiffness.

Of note, she was hospitalized with an STEMI last week.  She had 
a
nuclear stress test that did not show ischemia and had an echo
that showed stable mitral stenosis.  Was not started on statin
due to low ASCVD risk.  

In the ED, initial VS were: T 103, HR 128, BP 125/68, RR 18, O2
sat 92% on RA

Exam notable for: 

Febrile to 103, HR 128, BP 125/68, RR 19, SaO2 92
General: mild agitation, moving legs
CV: RRR, +S1/S2, systolic murmur, ___ popliteal, pt/dp pulses
Resp: mild crackles at bilateral bases
GI: soft, NT, ND
MSK: mild swelling of R knee/thigh without pitting, 2cmx4cm
fluctuant, erythematous, non tender mass on R thoracic spine
T5-T6, ___ R lower extremity strength

ECG: Sinus tachycardia at 105, nl axis, left atrial abnormality,
early repolarization pattern in inferior limb leads, no ST or T
wave changes

Labs showed:
- ___ 13, INR 1.2
- UA with 1 RBC, otherwise WNL
- Lactate 1.5
- BUN/Cr 32/1.5
- AP 138, ALT and AST wnl
- proBNP 1326
- CBC 10.2/___

Imaging showed:
MRI C and thoracic spine:
1. Postoperative changes after decompression, laminectomy and
anterior and 
posterior fusion in the upper thoracic spine. 
2. No evidence of spinal cord compression or of abnormal fluid
collection. 
3. Focal spinal cord atrophy and a small area of abnormal
increased signal 
intensity on the T2 weighted images at the surgical level. 

Consults:
Neurosurgery: No urgent findings on exam. Given extended time
period since last visit with Dr. ___ need to be
staffed with on-call ortho spine.

Patient received:
- Cefepime 2g
- Vanc 1g
- Ativan 1mg
- 500cc NS
- APAP 1g

Transfer VS were: T 99.7, HR 102, BP 95/59, RR 20, O2 sat 96% on
2L

On arrival to the floor, patient reports that she is feeling 
much
better.  She endorses the above story.  Nausea has improved. 
Currently she does not have any back pain.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
-MSSA Bacteremia ___ complicated by persistent T5 epidural 
abscess and discitis s/p T5-T6 corpectomy, T3-T8 posterior 
fusion (___) for persistent infection/vertebral body 
destruction
-Remote IVDU - ___ years ago on methadone
-HCV (unclear if treated in past)
-Mild cognitive Impairment
-Opiate dependence on methadone
-CKD III (baseline Cr 0.7-1)
-History of recurrent UTI's on macrobid suppressive therapy
-Depression/Anxiety
-Decubitus ulcers
-Mitral stenosis (per echo at ___ ___
 
Social History:
___
Family History:
No FH of cardiac disease per patient.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:98.1 91/60 HR 91 RR 18 O2 sat 93 RA 
GENERAL: NAD, appearing chronically ill
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, II/XI SEM, no gallops or rubs
PULM: CTAB with bibasilar crackles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: Thoracic kyphosis present. No cyanosis, clubbing, 
or
edema
PULSES: 2+ radial pulses bilaterally
NEURO: CNII-XII in tact, ___ upper and lower extremity strength
in upper and lower extremities. No signs of meningismus. Alert
and oriented to person, place, and time. Able to perform days of
weeks backwards.
DERM: Firm, warm, erythematous and fluctuant mass on thoracic
spine.

DISCHARGE PHYSICAL EXAM:
========================
PHYSICAL EXAM:
VS: ___ @ 614 Tm 98.7, BP: 122/77 (100-122/62-77), HR: 88
(88-94), RR: 18 (___), O2 sat: 91% (91-96), O2 delivery: RA,
Wt: 148.81 lb/67.5 kg 
GENERAL: NAD, alert and oriented, sitting comfortably in bed
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, ___ systolic ejection murmur best heard at RUSB
PULM: CTAB, no increased WOB
GI: abdomen soft, ND/NT, no rebound/guarding, +BS
EXTREMITIES: no cyanosis, clubbing, or edema. RUE with cord at
previous IV site improved, LUE with healing excoriations
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no rashes, fluctuant mass R side
mid thoracic spine. Mildly TTP, no erythema. Bandage over ___ tap
site
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30AM BLOOD WBC-10.2* RBC-3.79* Hgb-11.1* Hct-34.0 
MCV-90 MCH-29.3 MCHC-32.6 RDW-14.4 RDWSD-47.2* Plt ___
___ 09:30AM BLOOD Neuts-82.3* Lymphs-8.3* Monos-7.6 
Eos-0.7* Baso-0.7 Im ___ AbsNeut-8.42* AbsLymp-0.85* 
AbsMono-0.78 AbsEos-0.07 AbsBaso-0.07
___ 09:30AM BLOOD Plt ___
___ 10:27AM BLOOD ___ PTT-32.7 ___
___ 09:30AM BLOOD Glucose-133* UreaN-32* Creat-1.5* Na-136 
K-4.2 Cl-102 HCO3-22 AnGap-12
___ 09:30AM BLOOD ALT-13 AST-24 AlkPhos-138* TotBili-0.5
___ 09:30AM BLOOD Lipase-12
___ 09:30AM BLOOD proBNP-1326*
___ 09:30AM BLOOD Albumin-3.5
___ 09:48AM BLOOD Lactate-1.5

DISCHARGE LABS:
===============
___ 06:15  CBC
WBC RBC  HgbHctMCVMCHMCHCRDWRDWSDPlt Ct
5.5 3.32* 9.7*31.1*9429.231.2*14.449.1*179

___ 06:15 Chem-7
GlucoseUreaNCreatNaKClHCO3AnGap
___

___ 06:15  
CalciumPhosMg
___

IMAGING:
========
___ Chest X-Ray:
FINDINGS: 
Spinal fusion hardware is are again noted without substantial 
interval changes compared to ___.  The lung volume 
is small, exaggerating bronchovascular markings.  There is 
bibasilar atelectasis.  Otherwise no focal consolidation.  No 
pulmonary edema.  No pleural abnormalities.  The 
cardiomediastinal silhouette is unchanged.  No acute osseous 
abnormalities.
IMPRESSION: 
No focal consolidation to suggest pneumonia.

___ MRI CERVICAL/THORACIC SPINE:
FINDINGS: 
Again seen are postoperative changes after laminectomy and 
posterior and anterior fusion in the upper thoracic spine.  The 
anterior fusion, involving T5 through T7, appears unchanged.  
The posterior fusion, involving T2 through CTA also appears 
unchanged.  There is no encroachment on the spinal canal and 
ample CSF is seen surrounding the spinal cord.  There is faint 
hyperintensity within the spinal cord at the T5-6 level on the 
T2 weighted images.  This is better seen on the current 
examination than on the comparison MR studies.  There is focal 
atrophy of the spinal cord at this level.  Deep thoracic 
kyphosis appears unchanged. There is no evidence of an abnormal 
fluid collection within or outside of the spinal canal.  There 
is no evidence of spinal canal or neural foraminal narrowing. 
There is no evidence of infection or neoplasm.
IMPRESSION:
1. Postoperative changes after decompression, laminectomy and 
anterior and posterior fusion in the upper thoracic spine.
2. No evidence of spinal cord compression or of abnormal fluid 
collection.
3. Focal spinal cord atrophy and a small area of abnormal 
increased signal intensity on the T2 weighted images at the 
surgical level.

___ US Upper Back Soft Tissue:
IMPRESSION: 
Approximately 4.2 x 4.1 x 1.2 cm area of edematous and 
hypervascular
subcutaneous tissue with foci of air in the right mid posterior 
trunk. 
Scattered tiny pockets of fluid about ___ cc each could be 
targeted for
aspiration if clinically indicated.  However, no large fluid 
pocket for drain placement.

___ TTE:
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall thickness 
with a normal cavity size. There is suboptimal image quality to 
assess regional left ventricular function. Overall left 
ventricular systolic function is normal. The visually estimated 
left ventricular ejection fraction is 65%. There is no resting 
left ventricular outflow tract gradient. Normal right 
ventricular cavity size with depressed free wall motion. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is normal. 
The aortic valve leaflets (?#) are mildly thickened. No masses 
or vegetations are seen on the aortic valve. No abscess is seen. 
There is moderate aortic valve stenosis (valve area 1.0-1.5 
cm2). There is no aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. No 
masses or vegetations are seen on the mitral valve. No abscess 
is seen. There is mild (MVA 1.5-2.0cm2) mitral valve stenosis. 
There is trivial mitral regurgitation. The tricuspid
valve leaflets appear structurally normal. No mass/vegetation 
are seen on the tricuspid valve. No abscess is seen. There is 
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. No obvious vegetations.
Compared with the prior TTE ___, no gross change but the 
technically suboptimal nature of both studies precludes 
definitive comparison.
RECOMMEND: If clinically indicated, a TEE is suggested for 
further evaluation of endocarditis.

MICROBIOLOGY:
=============
___ 6:09 am BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:05 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:16 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:12 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 9:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:22 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 6:21 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 10:25 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 10:25 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 10:20 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 9:30 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.
 
Brief Hospital Course:
___ w hx MSSA bacteremia ___ T4-5 epidural abscess and discitis 
in ___ s/p multiple courses of antibiotic therapy, T5-T6 
corpectomy, T3-T8 posterior fusion, recent NSTEMI, HCV, CKD 
stage 3, remote IVDU w/ mitral stenosis, mild cognitive 
impairment, who presents with confusion and fluctuant mass on 
the R thoracic spine. 

ACUTE ISSUES:
===============

# Fluctuant thoracic mass
# Back pain
# Fever
Most likely source of fever is soft tissue infection/superficial 
abscess on her back. MRI showed stable postoperative changes 
without evidence of spinal cord compression, abnormal fluid 
collection, or epidural abscess. Neurosurgery reviewed images 
and thought no neurosurgical interventions needed. TTE ___ 
without evidence of endocarditis, no pulmonary, abdominal, or 
urinary symptoms. She may also have developed resistant organism 
while on doxycycline and or had a recurrence of prior infection. 
In the ED patient had a fever to 103. She defervesced and then 
remained afebrile once started on Vanc/Cefepime. Her mental 
status quickly improved after abx initiation. Infectious disease 
was consulted and felt that given elevated CRP this could 
possibly represent a recurrent bacterial infection if her 
hardware had been seeded during ___ episode MSSA bacteremia. 
An ultrasound was performed to assess the fluctuant mass on her 
back for potential fluid pockets for aspiration to further 
characterize the infection. Interventional radiology performed 
an aspiration of the site ___ with negative gram stain, and 
cultures without growth. Vancomycin and Cefepime were 
discontinued on ___ and she was discharged home on chronic 
doxycycline suppressive therapy. 

# Acute Encephalopathy: 
Patient was altered from her baseline on presentation. Her 
altered mental status resolved after antibiotics. The etiology 
of her encephalopathy is ___ infection.

# CKD III: 
Cr was 1.4 in ___, 1.5 on admission. ___ represent new 
baseline as Cr was 0.7-1.0 throughout ___.
Medications were renally dosed and nephotoxins avoided as able 
during this admission. Her Cr remained stable at 1.3. Discharge 
Cr was 1.3

# Anemia: normocytic, stable and chronic. ___ represent be AoCD 
from infection.

CHRONIC ISSUES:
===============
#h/o IVDU: continue methadone 89 mg daily
# Recent NSTEMI: Not on statin due to low ASCVD risk per HCA 
notes. Continue ASA
# Overactive bladder: oxybutynin ER not on formulary, oxybutynin 
5mg QID while in hospital. Discharged on home oxybutynin ER. 
# Pruritus: Pt with a history of pruritus. Continued home 
doxepin.
# Anxiety/Depression: Continued outpt wean from sertraline to 
duloxetine. Continued clonazepam 1 mg qAM and 1.5mg qPM. 
# Hypothyroidism: Continued home levothyroxine 112 mcg qd. 

TRANSITIONAL ISSUES:
====================
[] Continue home PO doxycycline 100 mg PO BID upon discharge. 
Provide prescription for patient until ID follow-up.
[] If concerned for hardware infection as outpatient, can repeat 
CRP. CRP was downtrending from 160 > 90 during admission and 
patient clinically improved. 
[] Consider repeat CRP at follow-up to ensure down-trending. 
[] Discharge Cr: 1.3
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
2. ClonazePAM 1 mg PO QAM Anxiety 
3. ClonazePAM 1.5 mg PO QPM anxiety 
4. Docusate Sodium 100 mg PO BID 
5. Levothyroxine Sodium 112 mcg PO DAILY 
6. Methadone 89 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Senna 17.2 mg PO QHS 
9. Sertraline 100 mg PO DAILY 
10. calcium carbonate-vitamin D3 600 mg(1,500mg) -800 unit oral 
DAILY 
11. Ditropan XL (oxybutynin chloride) 10 mg oral BID 
12. DULoxetine 20 mg PO DAILY 
13. Doxycycline Hyclate 100 mg PO Q12H 
14. Doxepin HCl 10 mg PO HS 
15. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY  
2.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  calcium carbonate-vitamin D3 600 mg(1,500mg) -800 unit oral 
DAILY  
5.  ClonazePAM 1.5 mg PO QPM anxiety  
6.  ClonazePAM 1 mg PO QAM Anxiety  
7.  Ditropan XL (oxybutynin chloride) 10 mg oral BID  
8.  Docusate Sodium 100 mg PO BID  
9.  Doxepin HCl 10 mg PO HS  
10.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
11.  DULoxetine 20 mg PO DAILY  
12.  Levothyroxine Sodium 112 mcg PO DAILY  
13.  Methadone 89 mg PO DAILY 
Consider prescribing naloxone at discharge  
14.  Multivitamins 1 TAB PO DAILY  
15.  Senna 17.2 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Superficial Abscess
#Altered mental status

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having 
fevers and you became confused at home.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We treated you with antibiotics to fight your infection.
- You had an MRI of your spine to make sure the infection was 
not affecting your spinal cord or the hardware in your back.
- We had our infectious disease specialists come to evaluate you 
to help us determine the most appropriate antibiotics to use and 
how long you should be on them for.
- We had our interventional radiologists take a sample from the 
site of your infection to determine if this could help guide 
antibiotic therapy.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed and keep 
your appointments.  
- Please take your antibiotics exactly as prescribed. 
- Please keep all of your follow up appointments. See the below 
section for the time and date of your appointments. You should 
be seen by your primary care doctor and PCP. 

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___